US08455522B2
Step 1: synthesis 3-(3-Methyl-2-oxo-2,3-dihydro-benzooxazol-5-yl)-pyridine-4-carbaldehyde
A mixture of 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-0)-3H-benzooxazol-2-one (330 mg, 1.2 mmol), 3-Bromo-pyridine-4-carbaldehyde (186 mg, 1 mmol), polymer bound Pd(PPh3)4 (642 mg, 0.07 mmol), Na2CO3 (2 M in water, 1 mL, 2 mmol) in N,N-Dimethylacetamide (9 mL) and water (1 mL) was heated to 100° C. by microwave for 1 h. The reaction mixture was cooled to room temperature. The suspension was diluted with CH2Cl2 (15 mL) and filtered through a pad of celite. The filtrate was concentrated in vacuo to reddish brown solid. This crude material was purified by flash column (0-10% CH3OH in CH2Cl2, v/v) and afforded 152 mg of the desired product. ESI-MS m/z: 255.0 [M+1]+, Retention time 1.03 min; 1HNMR (DMSO, 400.342 MHz): δ 3.39 (s, 3H), 7.27 (dd, J=8.2, 1.8 Hz, 1H), 7.50 (d, J=8.2 Hz, 1H), 7.57 (d, J=1.8 Hz, 1H), 8.85 (m, 2H), 10.0 (s, 1H).

reactant | 3-Bromo-pyridine-4-carbaldehyde | 1 mmol, 186 mg | BrC=1C=NC=CC1C=O | C6H4BrNO
reactant | Na2CO3 | 2 mmol, 2 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | N,N-Dimethylacetamide | 9 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 1 mL | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.07 mmol, 642 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-Methyl-2-oxo-2,3-dihydro-benzooxazol-5-yl)-pyridine-4-carbaldehyde | 152 mg | CN1C(OC2=C1C=C(C=C2)C=2C=NC=CC2C=O)=O | C14H10N2O3
